Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C-:2]([C:3]([H:11])([H:12])[H:13])[N+:4]([C:5](=[O:6])[H:15])([H:10])[H:14])([H:7])([H:8])[H:9],93.9485421333788
[O:1]([C:2]([C:3]([O:4][C:5]([C:6]#[C:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:6]([C:5]([O+:4]=[C:3]([H:11])[H:12])([H:13])[H:14])=[C-:7][H:15])([H:9])[H:10])[H:8],80.3505000090439
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]1([H:13])/[C:5](=[N:7]/[H:15])[O:6]1)[H:11])([H:8])([H:9])[H:10].[H:14][H:16],89.8822243372804
[O:1]([C@:2]([C:3][H:8])([C:4]([H:9])([H:10])[H:11])[C:5]#[N:6])[H:7]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],0.3707205869584982
[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]1([H:8])[C:2](=[O:3])[C:4]([H:9])([H:10])[C:5]1=[C:6]([H:7])[H:11],80.0644017982637
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2])[H:8].[N:3]#[N:4].[O:5]=[C:6]=[C:7]([H:9])[H:10],73.5953741573665
[N:1]#[C:2][C:6]#[N:7].[O:3]=[C:4]([O:5][H:8])[H:9]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],18.338400566550998
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[O:5]/[C:4](=[C:6](\[O:7][H:12])[H:13])[H:11])([H:8])([H:9])[H:10],39.538968917195604
[C:1]([C:4]1=[N:5][C:7]([H:14])=[C:6]=[C:2]([H:11])[C:3]1([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],75.59968574582
[C:1](/[N:2]=[C:3](\[C:6]#[N:7])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:13])[H:14].[H:11][H:15]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],37.36931982312791
[C:1]([C@:2]1([H:11])[O:3][C@@:4]1([O:5][H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],34.1126588195456
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:5]=[N:6][O:4][H:13])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],88.05245414534842
[C:1]([N:2]([C:6](=[C:5]=[C:3]=[O:4])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9],64.26568045701983
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:6]([C:4](=[O:5])[O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],91.71166878895157
[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([O:2][N:6]=[C:5]=[C:3]=[O:4])([H:7])([H:8])[H:9],85.7520924842068
[C:1]([C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9].[N:2][C:3]([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9],57.520898242806396
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[C-:4]#[N+:5][C:6]#[C:7][H:12].[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:8],88.47779136377291
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:13].[C:2]1([O:5][C:6](=[O:7])[H:15])=[C:4]([H:14])[C:3]1([H:11])[H:12],118.49998026766
[C:1](=[C:2]=[C:3]=[C:4]=[O:5])([H:7])[H:8].[N:6]([H:9])([H:10])[H:11]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],31.267161610401896
[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[O:3][C:5]([H:10])([H:11])[C:4]1)([H:6])([H:7])[H:8],88.5999439077977
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:12])[H:14])[H:11])([H:8])([H:9])[H:10].[O:7]([H:13])[H:15],62.0982290536551
[C:1]([N:2]([C:3](=[O:4])[N:5]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]([H:9])[H:10])([H:6])([H:7])[H:8].[C:3](=[O:4])=[N:5][H:11],39.934440530503295
[C:4]1([H:9])([H:10])[C:5]([H:8])([H:11])[O:6]1.[N:1](=[C:2]=[O:3])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],57.678613716113766
[C:1]([O+:2]=[C-:3][H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:10])([H:12])[H:13]>>[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],13.078350650024895
[C-:4]#[O+:5].[C:2](=[C:3]([H:11])[H:12])([H:9])[H:10].[C:6](=[O:7])([H:13])[H:14].[O:1]([H:8])[H:15]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],30.698291625254104
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([O+:3]=[C-:2][C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],109.704428546077
